US04178460
Preparation of 4-Trifluoromethylthiophenylacetonitrile
Sodium cyanide (3.9 g, 0.08 mol) is added to 40 ml of dimethylsulfoxide at 65° C. under N2. The heat is removed and α-bromo-4-trifluoromethylthiotoluene (14.3 g real, 0.053 mol) is added dropwise at such a rate that the exotherm never raises the temperature above 75° C. The red-colored reaction is heated to 90°-95° C. for about 45 minutes, then cooled to room temperature and treated with 50-100 ml of ice water. The aqueous suspension is extracted with several portions of ether which are combined, washed with water, and dried over sodium sulfate. Evaporation in vacuo gives 9.7 g of a dark red oil 95% pure by glc.

reactant | Sodium cyanide | 0.08 mol, 3.9 g | [C-]#N.[Na+]
reactant | α-bromo-4-trifluoromethylthiotoluene | 0.053 mol, 14.3 g | BrCC1=CC=C(C=C1)SC(F)(F)F | C8H6BrF3S
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4-Trifluoromethylthiophenylacetonitrile | 9.7 g, 95% | FC(SC1=CC=C(C=C1)CC#N)(F)F | C9H6F3NS
